US07985761B2
N-(3,5-Difluoro-phenyl)-N′-[3-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-4′-trifluoromethyl-biphenyl-4-yl]urea
In 100 ml of dry toluene was 5 g of 3-(4-amino-4′-trifluoromethyl-biphenyl-3-yl)-4H-[1,2,4]oxadiazol-5-one suspended and 2.5 g of 3,5-difluorophenyl isocyanate was added, the reaction mixture was stirred at room temperature overnight, 1.3 g of 3,5-difluorophenyl isocyanate was added and stirring was continued overnight. 3,5-Difluorophenyl isocyanate (1.3 g) and 100 ml of acetonitrile was added, the reaction mixture was stirred at room temperature for 90 min. and evaporated to dryness. The residue was dissolved in 100 ml of boiling acetone, then cooled to 0° C. and filtrated. The precipitate was recrystallized from 200 ml of ethanol, after filtration while hot, the solution was added 400 ml of water. The product was isolated by filtration. Yield 4 g (54%) mp.>150° C. decomp.

reactant | 3-(4-amino-4′-trifluoromethyl-biphenyl-3-yl)-4H-[1,2,4]oxadiazol-5-one | 5 g | NC1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C1=NOC(N1)=O | C15H10F3N3O2
reactant | 3,5-difluorophenyl isocyanate | 2.5 g | FC=1C=C(C=C(C1)F)N=C=O | C7H3F2NO
reactant | 3,5-difluorophenyl isocyanate | 1.3 g | FC=1C=C(C=C(C1)F)N=C=O | C7H3F2NO
reactant | 3,5-Difluorophenyl isocyanate | 1.3 g | FC=1C=C(C=C(C1)F)N=C=O | C7H3F2NO
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3,5-Difluoro-phenyl)-N′-[3-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-4′-trifluoromethyl-biphenyl-4-yl]urea | FC=1C=C(C=C(C1)F)NC(=O)NC1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C1=NOC(N1)=O | C22H13F5N4O3
